US08629167B2
Triethylamine (1.70 mL, 12.2 mmol) was added to a solution of 2,3-dichloro-4-fluoro-2,3-dihydrobenzo[b]thiophene-7-carbonitrile (1.57 g, 5.93 mmol) in dichloromethane (50 mL). The mixture was stirred at room temperature for 7 days, then the solvent was removed and the residue extracted with EtOAc. The organic extracts were then washed with water, brine and dried over Na2SO4. After removal of the solvent, the residue was purified by silica gel column chromatography to give 3-chloro-4-fluorobenzo[b]thiophene-7-carbonitrile as a white solid (1.19 g, 95% for two steps). 1H NMR (400 MHz, CDCl3, δ in ppm) 7.73 (dd, J=4.1, 8.2 Hz, 1H), 7.42 (s, 1H), 7.17 (dd, J=8.2, 10.5 Hz, 1H).

reactant | Triethylamine | 12.2 mmol, 1.70 mL | C(C)N(CC)CC | C6H15N
reactant | 2,3-dichloro-4-fluoro-2,3-dihydrobenzo[b]thiophene-7-carbonitrile | 5.93 mmol, 1.57 g | ClC1C(C2=C(S1)C(=CC=C2F)C#N)Cl | C9H4Cl2FNS
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-chloro-4-fluorobenzo[b]thiophene-7-carbonitrile | ClC=1C2=C(SC1)C(=CC=C2F)C#N | C9H3ClFNS
